US06423716B1
N′-Cyano-N-(3,4-dimethoxyphenyl)-4-(6,7-dimethoxy-4-quinazolinyl)-1-piperazinecarboxamidine (Compound 68)
To an acetonitrile solution (15 mL) of N-(3,4-dimethoxyphenyl)-4-(6,7-dimethoxy-4-quinazolinyl)-1-piperazinethiocarboxamide (499 mg, 1.07 mmol) described in WO 98/14431, DCC (4397 mg, 2.13 mmol), N,N-diisopropylethylamine (Hünig base) (0.19 mL, 1.09 mmol) and cyanamide (224 mg, 5.32 mmol) were added, followed by heating under reflux in argon atmosphere for 2 days. DCC (439 mg, 2.13 mmol), Hünig base (0.19 mL, 1.09 mmol) and cyanamide (224 mg, 5.32 mmol) were further added thereto, followed by heating under reflux for 2 days. After the reaction solution was concentrated, the resulting residue was purified by silica gel column chromatography to give the target compound (167 mg, 0.35 mmol).

reactant | N-(3,4-dimethoxyphenyl)-4-(6,7-dimethoxy-4-quinazolinyl)-1-piperazinethiocarboxamide | 1.07 mmol, 499 mg | COC=1C=C(C=CC1OC)NC(=S)N1CCN(CC1)C1=NC=NC2=CC(=C(C=C12)OC)OC | C23H27N5O4S
reactant | DCC | 2.13 mmol, 4397 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | N,N-diisopropylethylamine | 1.09 mmol, 0.19 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | cyanamide | 5.32 mmol, 224 mg | N#CN | CH2N2
reactant | DCC | 2.13 mmol, 439 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | Hünig base | 1.09 mmol, 0.19 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | cyanamide | 5.32 mmol, 224 mg | N#CN | CH2N2
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
product | N′-Cyano-N-(3,4-dimethoxyphenyl)-4-(6,7-dimethoxy-4-quinazolinyl)-1-piperazinecarboxamidine | 0.35 mmol, 167 mg, Yield: 33% | C(#N)N=C(NC1=CC(=C(C=C1)OC)OC)N1CCN(CC1)C1=NC=NC2=CC(=C(C=C12)OC)OC | C24H27N7O4
